US05741811
Synthesis of 4,5 dihydroxymethyl-2,2': 5',2"-terthiophene (NSC code #663561)
To a solution of 4-formyl-5-hydroxymethyl-2,2':5', 2"-terthiophene (0.1 g) in methanol (10 ml) was added excess amount of sodium borohydride. The reaction mixture was stirred at room temperature for 40 minutes. Methanol was removed and water was added. The solution was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated to give brownish solid product (0.1 g), melting point 99°-101° C.

reactant | 4-formyl-5-hydroxymethyl-2,2':5', 2"-terthiophene | 0.1 g | C(=O)C=1C=C(SC1CO)C=1SC(=CC1)C=1SC=CC1 | C14H10O2S3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4,5 dihydroxymethyl-2,2': 5',2"-terthiophene | 0.1 g | OCC=1C=C(SC1CO)C=1SC(=CC1)C=1SC=CC1 | C14H12O2S3
